US05021481
4-Hydroxy-1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidine
70% Aqueous tert-butyl hydroperoxide (74.8 grams, 609 mmol) is added over 30 minutes to a mixture of 35.0 grams (203 mmol) of 4-hydroxy-1-oxyl-2,2,6,6-tetramethylpiperidine, 2.0 grams of molybdenum trioxide and 200 ml of ethylbenzene which is heated to 120° C. The reaction mixture is maintained at reflux throughout the addition and water is collected in a Dean-Stark trap. The red mixture is heated at reflux for three hours after the addition is complete in order to discharge the red color of the N-oxyl compound. Solids are removed by filtration and the filtrate is concentrated at reduced pressure to obtain a yellow oil. Purification of the oil by flash chromatography (silica gel; 4:1 hexane:ethylacetate) affords 30.0 grams (53% yield) of the title compound as a white solid melting at 95-97° C.

reactant | tert-butyl hydroperoxide | 609 mmol, 74.8 grams | C(C)(C)(C)OO | C4H10O2
reactant | 4-hydroxy-1-oxyl-2,2,6,6-tetramethylpiperidine | 203 mmol, 35.0 grams | OC1CC(N(C(C1)(C)C)O)(C)C | C9H19NO2
reactant | ethylbenzene | 200 ml | C(C)C1=CC=CC=C1 | C8H10
catalyst | molybdenum trioxide | 2.0 grams | [Mo](=O)(=O)=O
solvent | water | O | H2O
product | 4-Hydroxy-1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidine | 30.0 grams, 53% yield | OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C17H27NO2
